US09102654B2
Step 1. N-(3-Chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethylacetamide (1c′)
In a 125 mL 3-neck round-bottomed flask was added N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)acetamide (2.57 g, 9.44 mmol), tetrahydrofuran (55 mL), and sodium tert-butoxide (1.81 g, 18.9 mmol). The suspension was stirred for 5 minutes then ethyl bromide (1.41 mL, 18.9 mmol), and tetrabutylammonium iodide (67 mg, 0.2 mmol) were added. The resulting gray colored suspension was then heated to 38° C. The reaction was analyzed after 3 hours and found to have gone to 81% completion, after 24 hours the reaction was found to have gone to completion. The reaction mixture was allowed to cool to ambient temperature and quenched with ammonium hydroxide/formic acid (HCO2H) buffer (10 mL). The mixture was then diluted with tetrahydrofuran (40 mL), ethyl acetate (120 mL), and saturated sodium bicarbonate (30 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×30 mL). The organic layers were combined and silica gel (37 g) was added. The solvent was removed in vacuo to give a solid that was purified using semi-automated silica gel chromatography (RediSep Silica 220 g column; hexanes (0.2% triethylamine)/ethyl acetate, 40/60 to 0/100 gradient elution system, flow rate 150 mL/minutes) to give, after concentration, an orange solid weighing (2.19 g, 88%)

reactant | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)acetamide | 9.44 mmol, 2.57 g | ClC1=NN(C=C1NC(C)=O)C=1C=NC=CC1 | C10H9ClN4O
reactant | sodium tert-butoxide | 18.9 mmol, 1.81 g | CC(C)([O-])C.[Na+]
reactant | ethyl bromide | 18.9 mmol, 1.41 mL | C(C)Br | C2H5Br
catalyst | tetrabutylammonium iodide | 0.2 mmol, 67 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 55 mL | O1CCCC1 | C4H8O
product | N-(3-Chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethylacetamide | ClC1=NN(C=C1N(C(C)=O)CC)C=1C=NC=CC1 | C12H13ClN4O
